US07470679B2
tert-Butyl 4-(2-oxo-1,2-dihydropyrido[2,3-d]pyrimidin-3(4H)-yl)piperidine-1-carboxylate
4-Amino-1-N-Boc-piperidine (290 mg, 1.4 mmol) was added to a solution of ethyl 3-formylpyridin-2-ylcarbamate (240 mg, 1.2 mmol) in methanol (10 mL). Mixture was warmed to 60° C. and held for 1.5 hours. Mixture was cooled to room temperature. Sodium borohydride (62 mg, 1.6 mmol) was added to the mixture. Reaction stirred at room temperature for 30 minutes. Toluene (20 mL) was added to the mixture followed by acetic acid (1.0 mL). Mixture was warmed to 110° C. Methanol was driven from the reaction mixture and collected in a Dean-Stark trap. Mixture was held at 110° C. for 5 hours. Mixture was cooled to room temperature and held for 16 hours. Reaction was quenched with aqueous sodium bicarbonate. Mixture was extracted with ethyl acetate (2×30 mL). Combined organics were washed successively with water (30 mL) and brine (20 mL). Organic layer was dried (magnesium sulfate), filtered and concentrated in vacuo. Silica gel chromatography afforded the title compound as white solid in 44% yield. MS m/e (M−H)−=311.2.

reactant | 4-Amino-1-N-Boc-piperidine | 1.4 mmol, 290 mg | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | ethyl 3-formylpyridin-2-ylcarbamate | 1.2 mmol, 240 mg | C(=O)C=1C(=NC=CC1)NC(OCC)=O | C9H10N2O3
reactant | Sodium borohydride | 1.6 mmol, 62 mg | [BH4-].[Na+]
reactant | Toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 10 mL | CO | CH4O
solvent | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
product | tert-Butyl 4-(2-oxo-1,2-dihydropyrido[2,3-d]pyrimidin-3(4H)-yl)piperidine-1-carboxylate | 44% yield | O=C1N(CC2=C(N1)N=CC=C2)C2CCN(CC2)C(=O)OC(C)(C)C | C17H24N4O3
